2162-11-11 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2162-11-10**]
   --------------------------------------------------------
   - The patient got 4 u PRBC (1 at OSH, 1 in ED 2 in [**Hospital Unit Name 4**]) yesterday
   morning
   - GI performed EGD and found source of bleed -- duodenal vessel which
   was injected w epi and 4 endoclips placed
   - IR notified about possibility that the pt. may require angio
   - HCT after EGD is 23, there was not an appropriate response to earlier
   transfusions, so the patient received 2 additional units of pRBCs.
   The patient was maintained on PPI gtt
   This AM, the patient is without complaints.  He had 2 melenic bowel
   movemets overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-11-10**] 06:07 PM
   Metronidazole - [**2162-11-10**] 11:26 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2162-11-10**] 11:33 AM
   Midazolam (Versed) - [**2162-11-10**] 02:15 PM
   Fentanyl - [**2162-11-10**] 02:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-11**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 63 (63 - 106) bpm
   BP: 129/43(63) {115/28(51) - 150/56(75)} mmHg
   RR: 15 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
           Total In:
                                                                  2,710 mL
                                                                    348 mL
   PO:
           TF:
   IVF:
                                                                    585 mL
                                                                    144 mL
   Blood products:
                                                                  1,125 mL
                                                                    204 mL
   Total out:
                                                                  3,020 mL
                                                                  1,040 mL
   Urine:
                                                                  3,020 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -310 mL
                                                                   -692 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98% on 4L NC
   ABG: ///27/
   Physical Examination
   GENERAL: Pleasant, well appearing elderly in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD
   CARDIAC: irregular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**]. JVP= 8cm
   LUNGS: no labored breathing, good air movement, diffusely ronchrous
   particularly on the left side
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.  .
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Speech w/o
   impairment. Preserved sensation throughout. 5/5 strength throughout
   with subtle weakness on right arm. [**12-25**]+ reflexes, equal BL. Gait
   assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   224 K/uL
   8.9 g/dL
   105 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.4 mEq/L
   50 mg/dL
   111 mEq/L
   144 mEq/L
   26.5 %
   12.5 K/uL
        [image002.jpg]
                            [**2162-11-10**]  02:48 PM
                            [**2162-11-10**]  09:22 PM
                            [**2162-11-11**]  03:56 AM
   WBC
   12.5
   Hct
   23.1
   24.5
   26.5
   Plt
   224
   Cr
   1.0
   0.9
   0.8
   Glucose
   139
   94
   105
   Other labs: PT / PTT / INR:15.4/32.2/1.3, CK / CKMB / Troponin-T:54//,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   84 year old male with recent hx stroke in [**2162-10-21**], hx afib now off
   coumadin who presents with melena and HCT drop.
   .
   #. GIB: Known GI bleed in duodenal bulb s/p endoclip placement. Hct
   stable this AM.
   - Switch to PPI IV bid
   - HCT q8hrs, transfuse for Hct goal of 30 or evidence of active bleed
   - maintain 2 large bore IV's
   - maintain T/S
   - hold asa, doxasosin, metoprolol
   - holding bowel regimen docusate, mag oxide
   - F/u GI recs
   .
   # Afib:
   - monitor on tele
   - cont digoxin
   - hold metoprolol
   - hold asa 325mg
   .
   # Downsloping ST segements: no CP, likely dig effection, MI ruled out
   by three negative biomarkers.
   - no ASA given GIB
   .
   # Recent CVA:
   - will re-start ASA when bleed is controlled
   .
   # Aspiration PNA: Dubhoff has been removed due to GI bleed.  Continued
   high risk of aspiration, possible aspiration during EGD procedure
   yesterday.
   - Repeat CXR
   - finish course of Levo/Flagyl to end on [**11-11**]
   - Hold off G-tube placement for now
   - hold tube feeds today given no Dubhoff
   -PICC placement to start TPN
   .
   # Hx COPD:
   - cont nebs
   .
   FEN:  NPO for now
   .
   PPX:
   - hold heparin sc today
   - hold Bowel regimen
   .
   ACCESS: PIV's
   .
   CODE STATUS: DNR/DNI but reversed temporarily for EGD
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 2052**] [**Known lastname **] (daughter) [**Telephone/Fax (1) 10012**]
   .
   DISPOSITION:  ICU
   ICU Care
   Nutrition: NPO.  PICC placement for TPN
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-11-10**] 09:17 AM
   22 Gauge - [**2162-11-10**] 09:17 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2162-11-11 10:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2162-11-10**] 09:51 AM
 ENDOSCOPY - At [**2162-11-10**] 01:40 PM
   found bleeding arterial vessel and put epi and four clips in place.
   Bleeding stopped.
   Last transfused overnight with 1 u pRBCs for hct 23, repeat hct 24 so
   he received an additional pRBCs and hct is now 26.
   Large maroon stool at 2 am. No further bowel movements.
   Nasotracheally suctioned x 2 overnight following EGD for thick yellow
   secretions, now with dried blood in yankar - ?trauma
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-11-10**] 06:07 PM
   Metronidazole - [**2162-11-11**] 08:17 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2162-11-10**] 11:33 AM
   Midazolam (Versed) - [**2162-11-10**] 02:15 PM
   Fentanyl - [**2162-11-10**] 02:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, weak
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-11-11**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 76 (61 - 106) bpm
   BP: 140/46(68) {115/28(51) - 150/56(75)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
           Total In:
                                                                  2,710 mL
                                                                    503 mL
   PO:
           TF:
   IVF:
                                                                    585 mL
                                                                    299 mL
   Blood products:
                                                                  1,125 mL
                                                                    204 mL
   Total out:
                                                                  3,020 mL
                                                                  1,400 mL
   Urine:
                                                                  3,020 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -310 mL
                                                                   -897 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   224 K/uL
   105 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.4 mEq/L
   50 mg/dL
   111 mEq/L
   144 mEq/L
   26.5 %
   12.5 K/uL
        [image002.jpg]
                            [**2162-11-10**]  02:48 PM
                            [**2162-11-10**]  09:22 PM
                            [**2162-11-11**]  03:56 AM
   WBC
   12.5
   Hct
   23.1
   24.5
   26.5
   Plt
   224
   Cr
   1.0
   0.9
   0.8
   Glucose
   139
   94
   105
   Other labs: PT / PTT / INR:15.4/32.2/1.3, CK / CKMB / Troponin-T:54//,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION:  To have PICC line placed for TPN.
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB):  EGD yesterday with
   bleeding vessel in duodenal bulb s/p clipping.  Gi feels this would not
   be amenable to repeat GI intervention given difficult location and
   recommends IR intervention if he continues to bleed. IR team aware.
   Still concerned that he may be bleeding albeit less briskly. Continue
   to monitor in the ICU.
 ASPIRATION PNEUMONIA:   Completing course of levo/flagyl for
   aspiration pneumonia.
 MINIMAL HEMOPTYSIS:  Likely secondary to trauma in setting of nasal
   suctioning overnight.  Minimize trauma, follow clinically at this
   point, repeat CXR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-11-10**] 09:17 AM
   22 Gauge - [**2162-11-10**] 09:17 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2162-11-12 07:26:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2162-11-11**] 11:56 AM
 PICC LINE - START [**2162-11-11**] 05:22 PM
   -Hct 26.8 and relatively stable this PM; has not needed transusions
   -One melonotic BM in the afternoon
   -GI fellow states that the patient may be able to get Dubhoff and
   re-start tube feeds as early as tomorrow if stable; will discuss with
   attending
   -Hct stable at 27 this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2162-11-11**] 05:18 PM
   Levofloxacin - [**2162-11-11**] 05:49 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-11-11**] 07:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-12**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 96 (61 - 96) bpm
   BP: 126/40(62) {123/36(60) - 156/123(127)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
                  Total In:
                                                                    838 mL
                  PO:
                  TF:
   IVF:
                                                                    634 mL
   Blood products:
                                                                    204 mL
   Total out:
                                                                  3,280 mL
                                                                    700 mL
   Urine:
                                                                  3,280 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,442 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   GENERAL: Pleasant, well appearing elderly in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD
   CARDIAC: irregular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**]. JVP= 8cm
   LUNGS: no labored breathing, good air movement, diffusely ronchrous
   particularly on the left side
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.  .
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Speech w/o
   impairment. Preserved sensation throughout. 5/5 strength throughout
   with subtle weakness on right arm. [**12-25**]+ reflexes, equal BL. Gait
   assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   300 K/uL
   9.6 g/dL
   107 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   27 mg/dL
   108 mEq/L
   143 mEq/L
   27.0 %
   20.2 K/uL
        [image002.jpg]
                            [**2162-11-10**]  02:48 PM
                            [**2162-11-10**]  09:22 PM
                            [**2162-11-11**]  03:56 AM
                            [**2162-11-11**]  10:22 AM
                            [**2162-11-11**]  03:29 PM
                            [**2162-11-11**]  08:19 PM
                            [**2162-11-12**]  02:34 AM
   WBC
   12.5
   20.2
   Hct
   23.1
   24.5
   26.5
   30.0
   27.6
   26.8
   27.0
   Plt
   224
   300
   Cr
   1.0
   0.9
   0.8
   0.8
   Glucose
   139
   94
   105
   107
   Other labs: PT / PTT / INR:15.9/31.1/1.4, CK / CKMB / Troponin-T:54//,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   84 year old male with recent hx stroke in [**2162-10-21**], hx afib now off
   coumadin who presents with melena and HCT drop.
   .
   #. GIB: Known GI bleed in duodenal bulb s/p endoclip placement. Hct
   stable this AM.
   - Switch to PPI IV bid
   - HCT q8hrs, transfuse for Hct goal of 30 or evidence of active bleed
   - maintain 2 large bore IV's
   - maintain T/S
   - hold asa, doxasosin, metoprolol
   - holding bowel regimen docusate, mag oxide
   - F/u GI recs
   .
   # Afib:
   - monitor on tele
   - cont digoxin
   - hold metoprolol
   - hold asa 325mg
   .
   # Downsloping ST segements: no CP, likely dig effection, MI ruled out
   by three negative biomarkers.
   - no ASA given GIB
   .
   # Recent CVA:
   - will re-start ASA when bleed is controlled
   .
   # Aspiration PNA: Dubhoff has been removed due to GI bleed.  Continued
   high risk of aspiration, possible aspiration during EGD procedure
   yesterday.
   - Repeat CXR
   - finish course of Levo/Flagyl to end on [**11-11**]
   - Hold off G-tube placement for now
   - hold tube feeds today given no Dubhoff
   -PICC placement to start TPN
   .
   # Hx COPD:
   - cont nebs
   .
   FEN:  NPO for now
   .
   PPX:
   - hold heparin sc today
   - hold Bowel regimen
   .
   ACCESS: PIV's
   .
   CODE STATUS: DNR/DNI but reversed temporarily for EGD
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 2052**] [**Known lastname **] (daughter) [**Telephone/Fax (1) 10012**]
   .
   DISPOSITION:  ICU
   ICU Care
   Nutrition: NPO.  PICC placement for TPN
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-11-10**] 09:17 AM
   22 Gauge - [**2162-11-10**] 09:17 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2162-11-12 10:45:00 Physician Attending Progress Note
Chief Complaint: UGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2162-11-11**] 11:56 AM
 PICC LINE - START [**2162-11-11**] 05:22 PM
   Autodiuresed
   Out of bed to chair
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2162-11-11**] 05:18 PM
   Levofloxacin - [**2162-11-11**] 05:49 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-11-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-11-12**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 81 (70 - 96) bpm
   BP: 139/41(65) {126/36(61) - 156/123(127)} mmHg
   RR: 22 (18 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                    838 mL
                                                                     23 mL
   PO:
             TF:
   IVF:
                                                                    634 mL
                                                                     23 mL
   Blood products:
                                                                    204 mL
   Total out:
                                                                  3,280 mL
                                                                    920 mL
   Urine:
                                                                  3,280 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,442 mL
                                                                   -898 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : R > L base this
   morning)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   300 K/uL
   107 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   27 mg/dL
   108 mEq/L
   143 mEq/L
   27.6 %
   20.2 K/uL
        [image002.jpg]
                            [**2162-11-10**]  02:48 PM
                            [**2162-11-10**]  09:22 PM
                            [**2162-11-11**]  03:56 AM
                            [**2162-11-11**]  10:22 AM
                            [**2162-11-11**]  03:29 PM
                            [**2162-11-11**]  08:19 PM
                            [**2162-11-12**]  02:34 AM
                            [**2162-11-12**]  08:42 AM
   WBC
   12.5
   20.2
   Hct
   23.1
   24.5
   26.5
   30.0
   27.6
   26.8
   27.0
   27.6
   Plt
   224
   300
   Cr
   1.0
   0.9
   0.8
   0.8
   Glucose
   139
   94
   105
   107
   Other labs: PT / PTT / INR:15.9/31.1/1.4, CK / CKMB / Troponin-T:54//,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERATION IN NUTRITION:  Will discuss placing a dobloff and starting
   tube feeds with GI service.
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB):  Had EGD with
   clipping.  Hct has remained stable without further blood products.
 ASPIRATION PNEUMONIA:  Completing abx course started at rehab last
   night for this.  Desaturates when lying in bed overnight requiring 2 L
   NC, better when out of bed to chair.  [**Month (only) 8**] have had recurrrent
   aspiration in setting of EGD.  Now concerned about hospital acquired
   organisms.  Will restart antibiotics for recrurrent aspiration PNA
   covering hospital acquired organisms.
 LEUKOCYTOSIS:  WBC up today.  Add differential.  Surveillance
   cultures.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-11-11**] 10:48 AM
   PICC Line - [**2162-11-11**] 05:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2162-11-13 07:43:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -put in DNR/DNI order
   -started vanc/cefepime/flagyl
   -ordered TPN
   -blood/urine cultures sent
   -stool studies sent
   -Hct at 10 p.m. was 26.0 -> recheck was 24 -> paged GI, who said to go
   ahead and transfuse, but not need for scope overnight unless there was
   melana or other evidence of active bleeding -> transfused 1 units with
   plan to give Lasix after first unit and then 2^nd unit after Lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-11-11**] 05:49 PM
   Cefipime - [**2162-11-12**] 12:33 PM
   Vancomycin - [**2162-11-12**] 08:00 PM
   Metronidazole - [**2162-11-13**] 04:19 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-11-12**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-13**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96.1
   HR: 59 (59 - 94) bpm
   BP: 123/45(64) {123/32(55) - 149/76(87)} mmHg
   RR: 19 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
           Total In:
                                                                  1,241 mL
                                                                  1,002 mL
   PO:
           TF:
   IVF:
                                                                    798 mL
                                                                    137 mL
   Blood products:
   359 mL
   Total out:
                                                                  1,940 mL
                                                                    360 mL
   Urine:
                                                                  1,940 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -699 mL
                                                                    642 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: NAD
   CARDIAC: Irregular rhythm, rate normal to mildly bradycardic. Normal
   S1, S2. II/VI systolic murmur at left sternal border.
   LUNGS: Diffuse rhonchi that clear with coughing.
   ABDOMEN: NABS. Soft, NT, ND.
   EXTREMITIES: Warm and well-perfused. Symmetric trace LE edema.
   Labs / Radiology
   300 K/uL
   9.6 g/dL
   107 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   27 mg/dL
   108 mEq/L
   143 mEq/L
   24.0 %
   20.2 K/uL
        [image002.jpg]
                            [**2162-11-10**]  09:22 PM
                            [**2162-11-11**]  03:56 AM
                            [**2162-11-11**]  10:22 AM
                            [**2162-11-11**]  03:29 PM
                            [**2162-11-11**]  08:19 PM
                            [**2162-11-12**]  02:34 AM
                            [**2162-11-12**]  08:42 AM
                            [**2162-11-12**]  03:27 PM
                            [**2162-11-12**]  09:52 PM
                            [**2162-11-13**]  01:21 AM
   WBC
   12.5
   20.2
   Hct
   24.5
   26.5
   30.0
   27.6
   26.8
   27.0
   27.6
   29.7
   26.0
   24.0
   Plt
   224
   300
   Cr
   0.9
   0.8
   0.8
   Glucose
   94
   105
   107
   Other labs: PT / PTT / INR:15.9/31.1/1.4, CK / CKMB / Troponin-T:54//,
   Differential-Neuts:90.2 %, Lymph:4.2 %, Mono:4.8 %, Eos:0.6 %, Ca++:8.0
   mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   84 year old male with recent hx stroke in [**2162-10-21**], hx afib now off
   coumadin who presents with melena and HCT drop 2/2 duodenal bleed.
   .
   #. Duodenal bleeding: Known GI bleed in duodenal bulb s/p endoclip
   placement. Hct stable this AM.
   - NPO
   - Continue PPI IV bid
   - Transfuse 1 additional unit PRBC for total 2 units transfused today
   and goal Hct>30
   - Hct Q8H
   - maintain active T+S, 2 large bore IV's
   - hold asa, doxazosin, metoprolol
   - holding bowel regimen, docusate, mag oxide
   - F/u GI recs
   .
   # Afib: Heart rate has been in 50s-60s.
   - monitor on tele
   - cont digoxin
   .
   # Bradycardia: EKG baseline. No e/o ischemia. Possible med effect of
   digoxin.
   - check digoxin level
   - hold metoprolol
   .
   # Recent CVA:
   - holding ASA for now; will re-start ASA when bleed is controlled
   .
   # Leukocytosis: Patient with rising WBC count to 20.2.  Likely [**1-25**]
   pulmonary source.
   - Follow-up pending cultures
   - Continue cefepime, vancomycin
   .
   # Hx COPD:
   - cont nebs
   ICU Care
   Nutrition: NPO.  Dobhoff d/c
ed given GI bleeding.  Nutrition with TPN
   via PICC.  Appreciate nutrition recs.  Will consult GI regarding when
   it will be okay to restart Dobhoff feeds or initiate PEG feeding.
   Glycemic Control:
   Lines: PICC + PIV x 2
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI IV BID
   VAP:
   Comments:
   Communication:  Comments: [**First Name8 (NamePattern2) 2052**] [**Known lastname **] (daughter) [**Telephone/Fax (1) 10012**]
   Code status: DNR / DNI (was reversed for EGD but now DNR/DNI)
   Disposition: [**Hospital Unit Name 4**] for now

2162-11-13 07:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   EGD 3d ago
   More melena yesterday, Hct falling
 given more blood, GI deciding
   about need for re-scope
   WBC climbing, empiric abx started
   TPN started
   24 Hour Events:
 BLOOD CULTURED - At [**2162-11-12**] 11:11 AM
 URINE CULTURE - At [**2162-11-12**] 11:11 AM
 STOOL CULTURE - At [**2162-11-12**] 11:11 AM
 BLOOD CULTURED - At [**2162-11-12**] 12:32 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-11-11**] 05:49 PM
   Cefipime - [**2162-11-12**] 12:33 PM
   Vancomycin - [**2162-11-12**] 08:00 PM
   Metronidazole - [**2162-11-13**] 04:19 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-11-12**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-13**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96.1
   HR: 59 (59 - 94) bpm
   BP: 123/45(64) {123/32(55) - 149/76(87)} mmHg
   RR: 19 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
           Total In:
                                                                  1,241 mL
                                                                  1,011 mL
   PO:
           TF:
   IVF:
                                                                    798 mL
                                                                    138 mL
   Blood products:
   359 mL
   Total out:
                                                                  1,940 mL
                                                                    360 mL
   Urine:
                                                                  1,940 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -699 mL
                                                                    651 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   Awake, alert, no distress
   HEENT unremarkable
   Neck supple
   Lung decreased  BSs at bases with crackles
   Abd benign, no tenderness
   Extrem no edema
   Labs / Radiology
   9.6 g/dL
   300 K/uL
   107 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   27 mg/dL
   108 mEq/L
   143 mEq/L
   24.0 %
   20.2 K/uL
        [image002.jpg]
                            [**2162-11-10**]  09:22 PM
                            [**2162-11-11**]  03:56 AM
                            [**2162-11-11**]  10:22 AM
                            [**2162-11-11**]  03:29 PM
                            [**2162-11-11**]  08:19 PM
                            [**2162-11-12**]  02:34 AM
                            [**2162-11-12**]  08:42 AM
                            [**2162-11-12**]  03:27 PM
                            [**2162-11-12**]  09:52 PM
                            [**2162-11-13**]  01:21 AM
   WBC
   12.5
   20.2
   Hct
   24.5
   26.5
   30.0
   27.6
   26.8
   27.0
   27.6
   29.7
   26.0
   24.0
   Plt
   224
   300
   Cr
   0.9
   0.8
   0.8
   Glucose
   94
   105
   107
   Other labs: PT / PTT / INR:15.9/31.1/1.4, CK / CKMB / Troponin-T:54//,
   Differential-Neuts:90.2 %, Lymph:4.2 %, Mono:4.8 %, Eos:0.6 %, Ca++:8.0
   mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Sputum beta-strep
   Cdiff negative
   Assessment and Plan
   Duodenal ulcer, upper GI bleed, blood loss anemia
 continue
   transfusion and follow Hct and melena, vitamin K for borderline INR.
   Cont PPI, IV access adequate
   Leukocytosis
 repeat CXR, on empiric abx for now
   AF
 cont digoxin
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2162-11-12**] 05:17 PM 66 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-11-11**] 10:48 AM
   PICC Line - [**2162-11-11**] 05:22 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent:   35

2162-11-14 08:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable Hct overnight
   Bradycardia intermittantly
   Walking without difficulty
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-11-11**] 05:49 PM
   Metronidazole - [**2162-11-13**] 04:19 AM
   Cefipime - [**2162-11-13**] 12:03 PM
   Vancomycin - [**2162-11-13**] 07:28 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-11-13**] 08:33 AM
   Pantoprazole (Protonix) - [**2162-11-13**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-14**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 65 (50 - 72) bpm
   BP: 154/41(66) {125/37(62) - 155/106(110)} mmHg
   RR: 19 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  3,137 mL
                                                                    440 mL
   PO:
             TF:
   IVF:
                                                                    970 mL
                                                                     80 mL
   Blood products:
                                                                    709 mL
   Total out:
                                                                  1,780 mL
                                                                    420 mL
   Urine:
                                                                  1,780 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                     20 mL
   Respiratory support
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Awake, alert, no distress
   HEENT unremarkable
   Neck supple
   Hrt - irreg
   Lung decreased  BSs at bases with crackles
   Abd benign, no tenderness
   Extrem no edema
   Labs / Radiology
   10.1 g/dL
   240 K/uL
   131 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   24 mg/dL
   110 mEq/L
   142 mEq/L
   30.5 %
   15.4 K/uL
        [image002.jpg]
                            [**2162-11-11**]  08:19 PM
                            [**2162-11-12**]  02:34 AM
                            [**2162-11-12**]  08:42 AM
                            [**2162-11-12**]  03:27 PM
                            [**2162-11-12**]  09:52 PM
                            [**2162-11-13**]  01:21 AM
                            [**2162-11-13**]  07:40 AM
                            [**2162-11-13**]  02:15 PM
                            [**2162-11-13**]  10:07 PM
                            [**2162-11-14**]  03:37 AM
   WBC
   20.2
   22.8
   15.4
   Hct
   26.8
   27.0
   27.6
   29.7
   26.0
   24.0
   28.3
   31.6
   31.5
   30.5
   Plt
   300
   264
   240
   Cr
   0.8
   0.7
   0.6
   Glucose
   107
   134
   131
   Other labs: PT / PTT / INR:15.3/33.1/1.3, CK / CKMB / Troponin-T:54//,
   Differential-Neuts:90.2 %, Lymph:4.2 %, Mono:4.8 %, Eos:0.6 %, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   CXR
 small effusions, unable to see left hemidiaphragm, reticular
   infiltrates R>L
   Assessment and Plan
   Duodenal ulcer, upper GI bleed, blood loss anemia
 stable Hct, melena
   has cleared, vitamin K for borderline INR given. Cont PPI, IV access
   adequate
   Leukocytosis, aspiration pna
 repeat CXR stable, continue vanco for
   staph in sputum
   AF
 cont digoxin
   ICU Care
   Nutrition: TPN, eventual PEG
   TPN without Lipids - [**2162-11-13**] 05:18 PM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-11-11**] 10:48 AM
   PICC Line - [**2162-11-11**] 05:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : transfer

2162-11-14 08:12:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9924**] PROGRESS NOTE
   Chief Complaint: melena
   24 Hour Events:
   - rec'd 1 u PRBC during rounds, w/ appropriate HCT bump 28.3-> 31.6
   (215pm)-> stable 31.5 (10pm)
   - brady at times 50s-60s, no changes on EKG
   - had only one further episode of melenic stool at 6pm
   - ambulating well around unit
   - likely c/o floor in AM
   Allergies: NKDA
   Last dose of Antibiotics:
   Levofloxacin - [**2162-11-11**] 05:49 PM
   Metronidazole - [**2162-11-13**] 04:19 AM
   Cefipime - [**2162-11-13**] 12:03 PM
   Vancomycin - [**2162-11-13**] 07:28 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-11-13**] 08:33 AM
   Pantoprazole (Protonix) - [**2162-11-13**] 08:25 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-14**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 65 (50 - 72) bpm
   BP: 154/41(66) {125/37(62) - 155/106(110)} mmHg
   RR: 19 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  3,137 mL
                                                                    449 mL
   PO:
             TF:
   IVF:
                                                                    970 mL
                                                                     82 mL
   Blood products:
                                                                    709 mL
   Total out:
                                                                  1,780 mL
                                                                    420 mL
   Urine:
                                                                  1,780 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                     29 mL
   Respiratory support
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   GENERAL: pleasant, thin elderly gentleman in NAD
   CARDIAC: Irregular rhythm, rate normal to mildly bradycardic. Normal
   S1, S2. II/VI systolic murmur at left sternal border.
   LUNGS: Diffuse rhonchi that clear with coughing.
   ABDOMEN: NABS. Soft, NT, ND.
   EXTREMITIES: Warm and well-perfused. Symmetric trace LE edema.
   Labs / Radiology
   240 K/uL
   10.1 g/dL
   131 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   24 mg/dL
   110 mEq/L
   142 mEq/L
   30.5 %
   15.4 K/uL
        [image002.jpg]
                            [**2162-11-11**]  08:19 PM
                            [**2162-11-12**]  02:34 AM
                            [**2162-11-12**]  08:42 AM
                            [**2162-11-12**]  03:27 PM
                            [**2162-11-12**]  09:52 PM
                            [**2162-11-13**]  01:21 AM
                            [**2162-11-13**]  07:40 AM
                            [**2162-11-13**]  02:15 PM
                            [**2162-11-13**]  10:07 PM
                            [**2162-11-14**]  03:37 AM
   WBC
   20.2
   22.8
   15.4
   Hct
   26.8
   27.0
   27.6
   29.7
   26.0
   24.0
   28.3
   31.6
   31.5
   30.5
   Plt
   300
   264
   240
   Cr
   0.8
   0.7
   0.6
   Glucose
   107
   134
   131
   Other labs: PT / PTT / INR:15.3/33.1/1.3, CK / CKMB / Troponin-T:54//,
   Differential-Neuts:90.2 %, Lymph:4.2 %, Mono:4.8 %, Eos:0.6 %, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   84 year old male with recent hx stroke in [**2162-10-21**], hx afib now off
   coumadin who presents with melena and HCT drop 2/2 duodenal bleed.
   .
   #. Duodenal bleeding: Known GI bleed in duodenal bulb s/p endoclip
   placement. Hct stable this AM.
   - NPO
   - Continue PPI IV bid
   - Transfuse 1 additional unit PRBC for total 2 units transfused today
   and goal Hct>30
   - Hct Q8H
   - maintain active T+S, 2 large bore IV's
   - hold asa, doxazosin, metoprolol
   - holding bowel regimen, docusate, mag oxide
   - F/u GI recs
   .
   # Afib: Heart rate has been in 50s-60s.
   - monitor on tele
   - cont digoxin
   .
   # Bradycardia: EKG baseline. No e/o ischemia. Possible med effect of
   digoxin.
   - check digoxin level
   - hold metoprolol
   .
   # Recent CVA:
   - holding ASA for now; will re-start ASA when bleed is controlled
   .
   # Leukocytosis: Patient with rising WBC count to 20.2.  Likely [**1-25**]
   pulmonary source.
   - Follow-up pending cultures
   - Continue cefepime, vancomycin
   .
   # Hx COPD:
   - cont nebs
   ICU Care
   Nutrition: Nutrition with TPN via PICC.  Appreciate nutrition recs.
   Will consult GI regarding when it will be okay to restart Dobhoff feeds
   or initiate PEG feeding.
   Glycemic Control:
   Lines: PICC + PIV x 2
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI IV BID
   VAP:
   Comments:
   Communication:  Comments: [**First Name8 (NamePattern2) 2052**] [**Known lastname **] (daughter) [**Telephone/Fax (1) 10012**]
   Code status: DNR / DNI (was reversed for EGD but now DNR/DNI)
   Disposition: [**Hospital Unit Name 4**] for now

2162-11-15 07:21:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -Hct stable 30.5--> 31.6
   -Foley d/c'd
   -Ambulating in the hallway
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2162-11-13**] 04:19 AM
   Cefipime - [**2162-11-13**] 12:03 PM
   Vancomycin - [**2162-11-14**] 07:29 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-11-14**] 07:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-15**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 52 (48 - 66) bpm
   BP: 149/40(67) {129/34(59) - 161/57(80)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  1,932 mL
                                                                    614 mL
   PO:
             TF:
   IVF:
                                                                    760 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                      0 mL
   Urine:
                                                                  1,415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    517 mL
                                                                    614 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   GENERAL: pleasant, thin elderly gentleman in NAD
   CARDIAC:  Irregular rhythm, rate normal to mildly bradycardic. Normal
   S1, S2. II/VI systolic murmur at left sternal border.
   LUNGS: Course breath sounds throughout with rales and decreased breath
   sounds at left base.
   ABDOMEN: NABS. Soft, NT, ND.
   EXTREMITIES: Warm and well-perfused. Symmetric trace LE edema.
   Labs / Radiology
   253 K/uL
   10.1 g/dL
   128 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   30.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2162-11-12**]  08:42 AM
                            [**2162-11-12**]  03:27 PM
                            [**2162-11-12**]  09:52 PM
                            [**2162-11-13**]  01:21 AM
                            [**2162-11-13**]  07:40 AM
                            [**2162-11-13**]  02:15 PM
                            [**2162-11-13**]  10:07 PM
                            [**2162-11-14**]  03:37 AM
                            [**2162-11-14**]  04:09 PM
                            [**2162-11-15**]  03:39 AM
   WBC
   22.8
   15.4
   10.5
   Hct
   27.6
   29.7
   26.0
   24.0
   28.3
   31.6
   31.5
   30.5
   31.6
   30.1
   Plt
   [**Telephone/Fax (3) 10090**]
   Cr
   0.7
   0.6
   0.6
   Glucose
   134
   131
   128
   Other labs: PT / PTT / INR:14.8/32.5/1.3, CK / CKMB / Troponin-T:54//,
   Differential-Neuts:90.2 %, Lymph:4.2 %, Mono:4.8 %, Eos:0.6 %, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   84 year old male with recent hx stroke in [**2162-10-21**], hx afib now off
   coumadin who presents with melena and HCT drop 2/2 duodenal bleed.
   .
   #. Duodenal bleeding: Known GI bleed in duodenal bulb s/p endoclip
   placement. Hct stable this AM.
   - NPO w TPN thru PICC
   - Continue PPI IV bid
   - [**Hospital1 **] HCT
   - maintain active T+S
   - continue to hold ASA, doxazosin, metoprolol
   - continue to hold bowel regimen, docusate, mag oxide
   - F/u GI recs
   .
   # Afib/bradycardia: Heart rate has been in 30s-50s while sleeping, may
   be [**1-25**] to digoxin.
   - monitor on tele
   - repeat EKG
   - d/c digoxin
   .
   # Bradycardia: EKG baseline. No e/o ischemia. Possible med effect of
   digoxin.
   - hold metoprolol
   .
   # Recent CVA:
   - holding ASA for now; will re-start ASA when bleed is controlled
   - PT/OT consult
   .
   # Pneumonia: Sputum grew MRSA. Leukocytosis improving. Afebrile.
   Satting well on room air.
   - Follow-up pending cultures
   - Continue vancomycin for staph aureus in sputum day 4 of 8.
   .
   # Hx COPD:
   - cont albuterol and ipratropium nebs
   ICU Care
   Nutrition: Nutrition with TPN via PICC. Appreciate nutrition recs.  f/u
   with GI regarding long-term plan for enteral feeding
   Glycemic Control:
   Lines: PICC + PIV
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI IV BID
   VAP:
   Comments:
   Communication:  Comments: [**First Name8 (NamePattern2) 2052**] [**Known lastname **] (daughter) [**Telephone/Fax (1) 10012**]
   Code status: DNR / DNI (was reversed for EGD but now DNR/DNI)
   Disposition: c/o floor

2162-11-15 11:10:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   HCT with reasonable stability across past 24 hours
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2162-11-13**] 04:19 AM
   Cefipime - [**2162-11-13**] 12:03 PM
   Vancomycin - [**2162-11-15**] 09:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-11-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-15**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 54 (41 - 67) bpm
   BP: 161/45(67) {118/34(58) - 161/54(79)} mmHg
   RR: 21 (15 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  1,932 mL
                                                                  1,197 mL
   PO:
             TF:
   IVF:
                                                                    760 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                    360 mL
   Urine:
                                                                  1,415 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    517 mL
                                                                    837 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   253 K/uL
   128 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   30.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2162-11-12**]  08:42 AM
                            [**2162-11-12**]  03:27 PM
                            [**2162-11-12**]  09:52 PM
                            [**2162-11-13**]  01:21 AM
                            [**2162-11-13**]  07:40 AM
                            [**2162-11-13**]  02:15 PM
                            [**2162-11-13**]  10:07 PM
                            [**2162-11-14**]  03:37 AM
                            [**2162-11-14**]  04:09 PM
                            [**2162-11-15**]  03:39 AM
   WBC
   22.8
   15.4
   10.5
   Hct
   27.6
   29.7
   26.0
   24.0
   28.3
   31.6
   31.5
   30.5
   31.6
   30.1
   Plt
   [**Telephone/Fax (3) 10090**]
   Cr
   0.7
   0.6
   0.6
   Glucose
   134
   131
   128
   Other labs: PT / PTT / INR:14.8/32.5/1.3, CK / CKMB / Troponin-T:54//,
   Differential-Neuts:90.2 %, Lymph:4.2 %, Mono:4.8 %, Eos:0.6 %, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   84 yo male admit with upper GI Bleed now s/p endoscopy wtih some
   variation in HCT but without evidence of brisk recurrence of bleeding.
   Importantly patient has had evolution of intermittent bradycardia  in
   the setting of digoxin therapy
it has been largely aymptomatic but has
   had rates as low as 40
s across time.
   1)GI Bleed-
   -PPI
   -HCT [**Hospital1 **]
   -Maintain active T+S and does have peripheral IV access only at this
   time.
   2)Bradycardia-
   -Will check Digoxin level
   -Will decrease Digoxin dosing
   -Will follow up ECG
   3)Aspiration Risk-S/P CVA-This is in the setting of long standing
   aspiration concern and findings on study
   -Maintain NPO status at this time
   -Continue with IV nutrition for now and will have to consider timing of
   feeding tube with GI
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2162-11-14**] 06:41 PM 67 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-11-11**] 10:48 AM
   PICC Line - [**2162-11-11**] 05:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes